US04703130
19-(Phenylmethoxy)-2,5,8,17-tetraoxaeicosan-20-ol
To a stirred suspension of 3.26 g of unwashed 50% sodium hydride and 10.9 g of benzyl bromide in 40 ml of dimethylformamide, under argon, was added a solution of 27.14 g of 20-[(4-methoxyphenyl)diphenylmethoxy]-2,5,8,17-tetraoxaeicosan-19-ol in 50 ml of dimethylformamide over 1/2hour. This mixture was stirred overnight, water was then added and the mixture extracted with ether. The ether extract was washed with water, dried and the solvent removed. The residue was dissolved in hot methanol and stirred with 10 g of a strongly acidic ion exchange resin. This mixture was filtered and the solvent removed. The residue was purified by HPLC, eluting with hexane:ethyl acetate (65:35) giving the desired compound as 12.9 g of a light yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 10.9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 20-[(4-methoxyphenyl)diphenylmethoxy]-2,5,8,17-tetraoxaeicosan-19-ol | 27.14 g | COC1=CC=C(C=C1)C(OCC(COCCCCCCCCOCCOCCOC)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H50O7
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 19-(Phenylmethoxy)-2,5,8,17-tetraoxaeicosan-20-ol | C1(=CC=CC=C1)COC(COCCCCCCCCOCCOCCOC)CO | C23H40O6
